* Read - Set - Read - Reset - Read
global 0
ahdl_include "/net/home/zahr/Documents/Gitlab/auto-spice/deps/JART-memristor-models/JART_VCM_v1b.va"

subckt my_ckt r0 c0 
I0 (r0 c0) JART_VCM_1b_det T0=0.293 \
eps=17 epsphib=5.5 phiBn0=0.18 \
phin=0.1 un=4e-06 Ndiscmax=20 Ndiscmin=0.008 Ninit=0.008 Nplug=20 \
a=2.5e-10 ny0=2e+13 dWa=1.35 Rth0=10e6 rdet=45e-9 lcell=3 \
ldet=0.4 Rtheff_scaling=0.27 RseriesTiOx=650 R0=719.244 \
Rthline=90471.5 alphaline=0.00392
ends my_ckt
XBAR (r0 c0 ) my_ckt

* triangle
* V0 (r0 0) vsource type=pwl wave=[ 0 0 1.5 -1.5 3 0 4.5 1.5 6 0 ]
* V0 (c0 0) vsource type=pwl wave=[ 0 0 1.5ms -0.7 3ms 0 4.5ms 1.6 6ms 0 ]

* zahr set/reset
* V0 (AE 0) vsource type=pwl wave=[ 0 0 0.9 0 1 0.2 1.9 0.2 2 0 2.9 0 3 -0.75 3.9 -0.75 4 0 4.9 0 5 0.2 5.9 0.2 6 0 6.9 0 7 1.5 7.9 1.5 8 0 8.9 0 9 0.2 9.9 0.2 10 0 11 0]

*pwl
V0 (r0 0) vsource type=pwl wave=[\
0      0    \
999n   0    \
1000n  0.2  \
1999n  0.2  \
2000n  0    \
2999n  0    \
3000n -1.05 \
4000n -1.05 \
4001n  0    \
4999n  0    \
5000n  0.2  \
5999n  0.2  \
6000n  0    \
]
V1 (c0  0) vsource dc=0

save XBAR.I0:OE XBAR.I0:AE

* srjt V0 (r0  0) vsource type=pulse val0=-1.4 val1=1.2 period=200n width=50n rise=25n fall=25n 
* zahr V0 (r0 0) vsource type=pwl wave=[ 0 0 0.9 0 1 0.2 1.9 0.2 2 0 2.9 0 3 -0.75 3.9 -0.75 4 0 4.9 0 5 0.2 5.9 0.2 6 0 6.9 0 7 1.5 7.9 1.5 8 0 8.9 0 9 0.2 9.9 0.2 10 0 11 0]

simulatorOptions options vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12
trans tran stop=7u errpreset=conservative maxstep=1e-9
saveOptions options save=all currents=all
